US07994185B2
N-{5-[2-(1,1-Dimethylethyl)-5-(2-{[2-(methylsulfonyl)ethyl]amino}-4-pyrimidinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 1 using N-{5-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide (0.149 g, 0.276 mmol) and 2-aminoethyl-methyl-sulfone (0.3 g, 2.4 mmol), the title compound was obtained as a white solid (75 mg, 43% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.95 (s, 1H), 8.14 (d, J=5.0 Hz, 1H), 7.65-7.79 (m, 1H), 7.36-7.53 (m, 3H), 7.22-7.34 (m, 3H), 6.28 (br. s., 1H), 3.60-3.75 (m, 2H), 3.35-3.40 (m, 2H), 3.02 (s, 3H), 1.42 (s, 9H). MS (ESI): 626.2 [M+H]+.

reactant | N-{5-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 0.276 mmol, 0.149 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C=CC(=C(C1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C23H18ClF3N4O2S2
reactant | 2-aminoethyl-methyl-sulfone | 2.4 mmol, 0.3 g | NCCS(=O)(=O)C | C3H9NO2S
product | N-{5-[2-(1,1-Dimethylethyl)-5-(2-{[2-(methylsulfonyl)ethyl]amino}-4-pyrimidinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | CC(C)(C)C=1SC(=C(N1)C=1C=CC(=C(C1)NS(=O)(=O)C1=C(C=CC=C1F)F)F)C1=NC(=NC=C1)NCCS(=O)(=O)C | C26H26F3N5O4S3
